US06743794B2
(1R,3S)-(3-Azidocyclohexyl)acetic Acid Benzyl Ester
To a solution of a compound from preparation 2 (1.05 g, 4.24 mmol), triphenylphosphine (1.33 g, 5.07 mmol), and hydrazoic acid (6.4 mL, at 1.0 M, 6.4 mmol) in toluene (7 mL) was added DEAD (1.0 mL, 6.4 mmol) dropwise and stirred for 20 min. The mixture was diluted with EtOAc, washed with 0.1 N NaOH, H2O and brine, dried (MgSO4), and chromatographed (silica gel, hexanes: EtOAc gradient) to give the title compound (0.916 g, 80%).

reactant | triphenylphosphine | 5.07 mmol, 1.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrazoic acid | 6.4 mmol, 1.0 M, 6.4 mL | N=[N+]=[N-] | HN3
reactant | DEAD | 6.4 mmol, 1.0 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,3S)-(3-Azidocyclohexyl)acetic Acid Benzyl Ester | 0.916 g, 80% | C(C1=CC=CC=C1)OC(C[C@H]1C[C@H](CCC1)N=[N+]=[N-])=O | C15H19N3O2
